### PR TITLE
[Merged by Bors] - refactor(Probability/Distributions/Exponential): exponential distrubtion as special case of Gamma distribution

### PR DESCRIPTION
**Pull request by JADekker**
Refactor most proofs of `Probability/Distributions/Exponential.lean` in terms of the proofs in `Probability/Distributions/Gamma.lean`, as the exponential distribution is a special case of the Gamma distribution.

Adds `stronglyMeasurable_gammaPdfReal` to `Probability/Distributions/Gamma` and [@measurability] tags to the necessary results in `Probability/Distributions/Gamma` and `Probability/Distributions/Exponential. ` 

Style : improve consistency in notation.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 1]
```diff
@@ -11,163 +11,116 @@ import Mathlib.Probability.Distributions.Gamma
...
 section ExponentialCdf
 
-/-- CDF of the exponential Distribution -/
+/-- CDF of the exponential distribution -/
 noncomputable
 def exponentialCdfReal (r : ℝ) : StieltjesFunction :=
   cdf (expMeasure r)
 
-lemma exponentialCdfReal_eq_integral (r x : ℝ) [Fact (0 < r)] :
+lemma exponentialCdfReal_eq_integral {r : ℝ} (hr : 0 < r) (x : ℝ):
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:101]:
```suggestion
lemma exponentialCdfReal_eq_integral {r : ℝ} (hr : 0 < r) (x : ℝ) :
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 2]
```diff
@@ -11,163 +11,116 @@ import Mathlib.Probability.Distributions.Gamma
...
     exponentialCdfReal r x = ∫ x in Iic x, exponentialPdfReal r x := by
-  rw [exponentialCdfReal,cdf_eq_toReal]
-  simp only [expMeasure, measurableSet_Iic, withDensity_apply]
-  rw [integral_eq_lintegral_of_nonneg_ae]; exact rfl
-  · exact ae_of_all _ fun a ↦ by simp [Pi.zero_apply, exponentialPdfReal_nonneg Fact.out a]
-  · exact (Measurable.aestronglyMeasurable (measurable_exponentialPdfReal r)).restrict
+  apply gammaCdfReal_eq_integral zero_lt_one hr
 
-lemma exponentialCdfReal_eq_lintegral (r x : ℝ) [Fact (0 < r)] :
+lemma exponentialCdfReal_eq_lintegral {r : ℝ} (hr : 0 < r) (x : ℝ):
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:105]:
```suggestion
lemma exponentialCdfReal_eq_lintegral {r : ℝ} (hr : 0 < r) (x : ℝ) :
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 3]
```diff
@@ -11,163 +11,116 @@ import Mathlib.Probability.Distributions.Gamma
...
 
-lemma exponentialCdfReal_eq_integral (r x : ℝ) [Fact (0 < r)] :
+lemma exponentialCdfReal_eq_integral {r : ℝ} (hr : 0 < r) (x : ℝ):
     exponentialCdfReal r x = ∫ x in Iic x, exponentialPdfReal r x := by
-  rw [exponentialCdfReal,cdf_eq_toReal]
-  simp only [expMeasure, measurableSet_Iic, withDensity_apply]
-  rw [integral_eq_lintegral_of_nonneg_ae]; exact rfl
-  · exact ae_of_all _ fun a ↦ by simp [Pi.zero_apply, exponentialPdfReal_nonneg Fact.out a]
-  · exact (Measurable.aestronglyMeasurable (measurable_exponentialPdfReal r)).restrict
+  apply gammaCdfReal_eq_integral zero_lt_one hr
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:103]: Please use `exact` instead of `apply` when it closes the goal. But here you can simply delete the `by` at the end of the previous line and delete the `apply`.

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 4]
```diff
@@ -11,163 +11,116 @@ import Mathlib.Probability.Distributions.Gamma
...
 
-lemma exponentialCdfReal_eq_lintegral (r x : ℝ) [Fact (0 < r)] :
+lemma exponentialCdfReal_eq_lintegral {r : ℝ} (hr : 0 < r) (x : ℝ):
     exponentialCdfReal r x = ENNReal.toReal (∫⁻ x in Iic x, exponentialPdf r x) := by
-  simp only [exponentialPdf, exponentialCdfReal, cdf_eq_toReal]
-  simp only [expMeasure, measurableSet_Iic, withDensity_apply, exponentialPdf]
+  apply gammaCdfReal_eq_lintegral zero_lt_one hr
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:107]: Same here: remove `by` and `apply`. In general, prefer `exact` over `apply` for closing a goal.

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 5]
```diff
@@ -11,163 +11,116 @@ import Mathlib.Probability.Distributions.Gamma
...
+  · simp only [one_mul, id_eq, neg_mul]
+  simp only [id_eq, neg_mul, mul_one, mul_neg, one_mul, neg_neg, mul_comm]
+
+/-- A negative exponential function is integrable on intervals in `R≥0` -/
+lemma exp_neg_integrableOn_Ioc {b x : ℝ} (hb : 0 < b) :
+    IntegrableOn (fun x ↦ rexp (-(b * x))) (Ioc 0 x) := by
+  simp only [neg_mul_eq_neg_mul]
+  exact (exp_neg_integrableOn_Ioi _ hb).mono_set Ioc_subset_Ioi_self
+
+lemma lintegral_exponentialPdf_eq_antiDeriv {r : ℝ} (hr : 0 < r) (x : ℝ):
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:123]:
```suggestion
lemma lintegral_exponentialPdf_eq_antiDeriv {r : ℝ} (hr : 0 < r) (x : ℝ) :
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 6]
```diff
@@ -204,14 +157,15 @@ lemma lintegral_exponentialPdf_eq_antiDeriv (r x : ℝ) (hr : 0 < r) :
       rw [integrableOn_Icc_iff_integrableOn_Ioc]
       exact Integrable.const_mul (exp_neg_integrableOn_Ioc hr) _
 
-/-- The Definition of the CDF equals the known Formular ``1 - exp (-(r * x))``-/
-lemma exponentialCdfReal_eq {r : ℝ} [Fact (0 < r)] (x : ℝ) :
+/-- The definition of the CDF equals the known formula ``1 - exp (-(r * x))``-/
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:160]:
```suggestion
/-- The CDF of the exponential distribution equals `1 - exp (-(r * x))` -/
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 7]
```diff
@@ -204,14 +157,15 @@ lemma lintegral_exponentialPdf_eq_antiDeriv (r x : ℝ) (hr : 0 < r) :
...
+lemma exponentialCdfReal_eq {r : ℝ} (hr : 0 < r) (x : ℝ) :
     exponentialCdfReal r x = if 0 ≤ x then 1 - exp (-(r * x)) else 0 := by
-  simp only [exponentialCdfReal_eq_lintegral, lintegral_exponentialPdf_eq_antiDeriv _ _ Fact.out,
-    ENNReal.toReal_ofReal_eq_iff]
+  rw [exponentialCdfReal_eq_lintegral hr]
+  rw [lintegral_exponentialPdf_eq_antiDeriv hr x]
+  rw [ENNReal.toReal_ofReal_eq_iff]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:165]:
```suggestion
  rw [exponentialCdfReal_eq_lintegral hr, lintegral_exponentialPdf_eq_antiDeriv hr x,
    ENNReal.toReal_ofReal_eq_iff]
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 8]
```diff
@@ -204,14 +157,15 @@ lemma lintegral_exponentialPdf_eq_antiDeriv (r x : ℝ) (hr : 0 < r) :
...
   split_ifs with h
   · simp only [sub_nonneg, exp_le_one_iff, Left.neg_nonpos_iff, gt_iff_lt, ge_iff_le]
-    exact mul_nonneg (le_of_lt Fact.out) h
-  · simp
+    exact mul_nonneg (le_of_lt hr) h
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:168]:
```suggestion
    exact mul_nonneg hr.le h
```

File: Mathlib/Probability/Distributions/Exponential.lean [hunk 9]
```diff
@@ -204,14 +157,15 @@ lemma lintegral_exponentialPdf_eq_antiDeriv (r x : ℝ) (hr : 0 < r) :
...
+  · exact le_refl _
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Exponential.lean:169]: There is a variant with an implicit argument:
```suggestion
  · exact le_rfl
```

File: Mathlib/Probability/Distributions/Gamma.lean [hunk 10]
```diff
@@ -11,7 +11,7 @@ import Mathlib.Analysis.SpecialFunctions.Gamma.Basic
 
 /-! # Gamma distributions over ℝ
 
-Define the Gamma Measure over the Reals
+Define the Gamma measure over the reals
```
Comment (RemyDegenne) [inline Mathlib/Probability/Distributions/Gamma.lean:14]:
```suggestion
Define the Gamma measure over the reals.
```

**Review by RemyDegenne — COMMENTED** [review]
Thanks!

Can you please restore `stronglyMeasurable_exponentialPdfReal`? Many lemmas about real valued functions ask for strongly measurable so that's good to have (even if it is easily obtainable from the other one).
Also can you add the `[measurability]` tags to both lemmas? That makes those lemmas available in the measurability tactic.

**Comment by JADekker** [comment]
> Thanks!
> 
> Can you please restore `stronglyMeasurable_exponentialPdfReal`? Many lemmas about real valued functions ask for strongly measurable so that's good to have (even if it is easily obtainable from the other one). Also can you add the `[measurability]` tags to both lemmas? That makes those lemmas available in the measurability tactic.

Thank you, I will do that and incorporate the other replies as well! I’ll also add the related result to Probability/Distributions/Gamma!

**Comment by JADekker** [comment]
I've implemented all changes in the PR! 

I think that two further things for exponential/gamma distributions should be modified: 
- The case (a = 0 or r = 0) is a degenerate special case (where the corresponding distribution is the dirac distribution at 0), perhaps we should extend the results, where possible, for that? 
- The parameters for 'a' and 'r' should be positive or non-negative (depending on the previous item), so perhaps we should constrain them to be NNReal at some point: I think from the point where we define gammaMeasure and exponentialMeasure in Probability/Distributions/Gamma and Probability/Distributions/Exponential respectively? 

I'm happy to open a new PR after this one to incorporate these points, or tag them along to the current PR. If you'd like to discuss them, I'm also happy to move that discussion to Zulip?

File: Mathlib/Probability/Distributions/Gamma.lean [hunk 11]
```diff
@@ -70,11 +70,18 @@ lemma lintegral_gammaPdf_of_nonpos {x a r : ℝ} (hx : x ≤ 0) :
...
     (measurable_id'.const_mul _).neg.exp) measurable_const
 
-/-- the Gamma pdf is positive for all positive reals -/
+/-- The gamma Pdf is strongly measurable -/
+@[measurability]
+ lemma stronglyMeasurable_gammaPdfReal (a r : ℝ) :
+     StronglyMeasurable (gammaPdfReal a r) :=
+   (measurable_gammaPdfReal a r).stronglyMeasurable
+
+/-- The Gamma pdf is positive for all positive reals -/
```
Comment (jcommelin) [inline Mathlib/Probability/Distributions/Gamma.lean:84]: One docstring says `gamma Pdf`, the other `Gamma pdf`. Please make the capitalization consistent. (Also see other parts of the file.)

**Comment by jcommelin** [comment]
> Remove `stronglyMeasurable_exponentialPdfReal` as this is a one-line result.

Is this still accurate? If not, please update the top comment. It will become the commit message when this PR is merged into `master`.

**Comment by JADekker** [comment]
> > Remove `stronglyMeasurable_exponentialPdfReal` as this is a one-line result.
> 
> Is this still accurate? If not, please update the top comment. It will become the commit message when this PR is merged into `master`.

That is outdated, I've changed it! I'll incorporate your reviews soon!

**Comment by RemyDegenne** [comment]
Let's merge this and put further changes in another PR. Thanks!
bors r+
